US06180625B2
6-Methyl-2-thiophen-2-yl-4H-3,1-benzoxazin-4-one (2).
2-Amino-5-methylbenzoic acid (0.5 g) and triethyl amine (10 ml) were mixed in dry toluene (20 ml). 2-Thienylcarbonyl chloride (1.07 g) was added dropwise under cooling and stirring. The mixture was subsequently heated to RT for 24 h, then heated to 80° C. for 1 h. After cooling on ice the precipitate was filtered off and the filtrate evaporated to dryness. The residue was partitioned between methylene chloride and potassium carbonate (2N), the organic layers separated, dried over magnesium sulfate and evaporated to dryness. The raw product was purified by column chromatography on silicagel using heptane/ethyl acetate as eluent.

reactant | 2-Amino-5-methylbenzoic acid | 0.5 g | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
reactant | triethyl amine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | 2-Thienylcarbonyl chloride | 1.07 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Methyl-2-thiophen-2-yl-4H-3,1-benzoxazin-4-one | CC=1C=CC2=C(C(OC(=N2)C=2SC=CC2)=O)C1 | C13H9NO2S
